US04051248
A. 7-Chloro-2-[(dimethylamino)methyl]-3,4-dihydro-1(2H)-naphthalenone, hydrochloride (1:1)
7-Chloro-α-tetralone (15.0 g), 8.75 g of dimethylamine hydrochloride, 3.25 g of paraformaldehyde, and 17.5 ml of 95% ethanol containing 0.2 ml of concentrated hydrogen chloride are combined and heated on a steam bath for 2 hours. The warm solution is transferred to a wide-mouthed flask, diluted with 200 ml of acetone, and allowed to stand at room temperature for several hours. The resultant crystals are collected and crystallized from acetone/ethanol to give 10.7 g of the title compound, melting point 169°-170° C.

reactant | 7-Chloro-α-tetralone | 15.0 g | C1CC2=C(C=C(C=C2)Cl)C(=O)C1 | C10H9ClO
reactant | dimethylamine hydrochloride | 8.75 g | Cl.CNC
reactant | paraformaldehyde | 3.25 g | C=O | CH2O
reactant | hydrogen chloride | Cl | ClH
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | ethanol | 17.5 ml | C(C)O | C2H6O
product | 7-Chloro-2-[(dimethylamino)methyl]-3,4-dihydro-1(2H)-naphthalenone, hydrochloride | 10.7 g | Cl.ClC1=CC=C2CCC(C(C2=C1)=O)CN(C)C | InChI=1S/C13H16ClNO.ClH/c1-15(2)8-10-4-3-9-5-6-11(14)7-12(9)13(10)16;/h5-7,10H,3-4,8H2,1-2H3;1H
